US09212190B2
Into a 25-mL round-bottom flask, a solution of tert-butyl N-(4-[[(3R)-3-[(2R)-2-carbamoyl-2-methoxyethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (140 mg, 0.28 mmol, 1.00 equiv) in dichloromethane (10 mL) was added hydrochloric acid (2 M, 1.0 mL) at 0° C. and the resulting mixture was stirred at room temperature for 5 h. After completion, the resulting mixture was concentrated under vacuum to afford (2R)-2-methoxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1 (8),2 (6),9,11-tetraen-3-yl]propanamide hydrochloride (110 mg) as a light yellow solid. The residue hydrochloride (110 mg) was dissolved in 5 mL of methanol, HCHO (37%, 0.5 mL) was added and the solution stirred for 30 min at room temperature. Then NaBH3CN (65 mg) was added and the resulting solution was allowed to react, with stirring, for an additional 2 hr at ambient temperature. After completion, the resulting solution was diluted with 20 mL of water, extracted with 3×50 mL of DCM and concentrated under vacuum. The crude product (100 mg) was purified by preparative HPLC under the following conditions (SHIMADZU): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 0.1% HCOOH and CH3CN (6.0% CH3CN up to 75% in 20 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired (2R)-3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2-methoxypropanamide formate (47.5 mg, 45%) as an off-white solid. MS (ES): m/z 419 [M−HCOOH+H]+. 1H NMR (300 MHz, CD3OD): δ 8.44 (m, 2H), 5.28 (s, 1H), 3.59-3.52 (m, 2H), 3.34-3.27 (m, 4H), 3.08-2.82 (m, 8H), 2.65-2.62 (m, 1H), 2.45-2.18 (m, 6H), 1.85-1.82 (m, 5H).

reactant | tert-butyl N-(4-[[(3R)-3-[(2R)-2-carbamoyl-2-methoxyethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.28 mmol, 140 mg, 1.00 equiv | C(N)(=O)[C@@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)OC | C25H36N4O5S
reactant | hydrochloric acid | 2 M, 1.0 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2R)-2-methoxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1 (8),2 (6),9,11-tetraen-3-yl]propanamide hydrochloride | 110 mg | Cl.CO[C@@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC | InChI=1S/C20H28N4O3S.ClH/c1-22-12-4-6-13(7-5-12)27-19-17-16-11(9-14(26-2)18(21)25)3-8-15(16)28-20(17)24-10-23-19;/h10-14,22H,3-9H2,1-2H3,(H2,21,25);1H/t11-,12?,13?,14-;/m1./s1
